US08685969B2
A mixture of 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylic acid (1.10 g, 2.02 mmol), ammonium chloride (0.432 g, 8.08 mmol), BOP (1.16 g, 2.63 mmol), N-methylmorpholine (0.866 mL, 7.88 mmol), and diisopropylethylamine (1.69 mL, 9.70 mmol) in N,N-dimethylformamide (10.0 mL) was stirred at room temperature for 4 h. The reaction mixture was added dropwise to rapidly stirring water (100 mL). After stirring for 60 min., the suspension was filtered under reduced pressure, and the solid was washed with water and dried well under reduced pressure to give benzyl (3-(7-bromo-1-carbamoyl-3-methyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenyl)carbamate as a light brown solid. LC/MS M+1=543.4 and 545.4. The reaction mixture was used in the next step without any further purification.

reactant | 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylic acid | 2.02 mmol, 1.10 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)O)C)C | C28H22BrN3O4
reactant | ammonium chloride | 8.08 mmol, 0.432 g | [Cl-].[NH4+]
reactant | BOP | 2.63 mmol, 1.16 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 7.88 mmol, 0.866 mL | CN1CCOCC1 | C5H11NO
reactant | diisopropylethylamine | 9.70 mmol, 1.69 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | benzyl (3-(7-bromo-1-carbamoyl-3-methyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenyl)carbamate | BrC1=CC=C2C3=C(NC2=C1)C(=NC(=C3C=3C(=C(C=CC3)NC(OCC3=CC=CC=C3)=O)C)C)C(N)=O | C28H23BrN4O3
